US04910319
1-Benzyl-3-benzylamino-3-methylpyrrolidine-2,5-dione
120.6 g (0.6 mol) of N-benzylcitraconimide and 65.2 g (0.6 mol) of benzylamine are heated to reflux in 600 ml of tetrahydrofuran for 16 hours. The solvent is then distilled off, and the residue is chromatographed on silica gel using ethyl acetate-petrol ether 1:1. This gives 76.2 g of an oil, which is 93% strength after analysis by gas chromatography (yield 38% of theory).

reactant | N-benzylcitraconimide | 0.6 mol, 120.6 g | C(C1=CC=CC=C1)N1C(C(C)=CC1=O)=O | C12H11NO2
reactant | benzylamine | 0.6 mol, 65.2 g | C(C1=CC=CC=C1)N | C7H9N
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | 1-Benzyl-3-benzylamino-3-methylpyrrolidine-2,5-dione | yield 38% | C(C1=CC=CC=C1)N1C(C(CC1=O)(C)NCC1=CC=CC=C1)=O | C19H20N2O2
